US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-3,3-dimethylbutanamide
3,3-Dimethyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)butanamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and was purified by preparative HPLC (0.027 g, 29% yield over 2 steps): 1H NMR (CD3OD) δ 8.73 (s, 1H), 8.15 (s, 1H), 8.10 (d, 1H), 7.75 (t, 2H), 7.69 (d, 1H), 7.51 (t, 1H), 2.30 (s, 2H), 1.12 (t, 9H); ES-MS (m/z) 375 [M+H]+.

reactant | 3,3-Dimethyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)butanamide | CC(CC(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)(C)C | C45H44N6O2
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-3,3-dimethylbutanamide | 29% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CC(C)(C)C)=O | C21H22N6O
